US08541411B2
Preparation of 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid 2-amino-2-(hydroxymethyl)-1,3-propanediol salt
To the 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid (353.0 mg), methanol (14.0 mL) was added. The slurry was heated to 6° C. and tromethamine (3.0 M solution in water, 1.0 equivalent) was added in four aliquots over 15 minutes followed by the addition of crystalline seeds of crystalline tromethamine salt from batch 1. The slurry was stirred at 60 C for 3 hours, cooled (1 C/min) to 20 C, and stirred at 20 C for 8 hours. The solids were isolated by vacuum filtration, dried at 60 C under vacuum for 5 hours. The yield of the tromethamine salt was 401.5 mg (˜88.9% yield).

reactant | 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid | 353.0 mg | CC1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2C(=O)O)N2CCOCC2 | C22H22F3N3O3
reactant | tromethamine | 3.0 M, 1.0 equivalent | NC(CO)(CO)CO | C4H11NO3
solvent | methanol | 14.0 mL | CO | CH4O
product | 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid 2-amino-2-(hydroxymethyl)-1,3-propanediol salt | NC(CO)(CO)CO.CC1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2C(=O)O)N2CCOCC2 | InChI=1S/C22H22F3N3O3.C4H11NO3/c1-13-15(4-3-5-18(13)22(23,24)25)12-28-14(2)26-20-17(21(29)30)10-16(11-19(20)28)27-6-8-31-9-7-27;5-4(1-6,2-7)3-8/h3-5,10-11H,6-9,12H2,1-2H3,(H,29,30);6-8H,1-3,5H2
